US07459562B2
C) N-(4-Methoxybenzyl)-6-(4-amino-2-fluorophenoxy)pyrimidin-4-amine
A solution of N-(4-methoxybenzyl)-6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-amine (150 mg, 0.41 mmol) in 1:1 MeOH/THF (20 mL) was treated with ammonium chloride (0.22 g, 4.1 mmol), and zinc dust (<20 microns, 0.27 g, 4.2 mmol). The reaction mixture was stirred at RT for 1 h. An additional portion of zinc dust (150 mg) was added to the mixture and the reaction mixture was stirred at RT for 1 h and heated at 70° C. for 20 min. The mixture was filtered to remove the inorganic solids, concentrated in vacuo, and the residue partitioned between EtOAc and brine. The EtOAc phase was separated, washed with brine, dried (MgSO4) and concentrated in vacuo to give the title compound (145 mg, 99%). 1H NMR (DMSO-d6) δ 8.10 (br s, 1H), 7.76 (br s, 1H), 7.21 (d, 2H, J=8.6 Hz), 6.88 (d, 3H, J=8.6 Hz), 6.44 (dd, 1H, J=12.7, 2.0 Hz), 6.36 (dd, 1H, J=8.3, 2.3 Hz), 5.79 (s, 1H), 4.41 (br s, 2H), 3.73 (s, 3H); MS(ESI+) m/z 341.18 (M+H)+.

reactant | N-(4-methoxybenzyl)-6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-amine | 0.41 mmol, 150 mg | COC1=CC=C(CNC2=NC=NC(=C2)OC2=C(C=C(C=C2)[N+](=O)[O-])F)C=C1 | C18H15FN4O4
reactant | ammonium chloride | 4.1 mmol, 0.22 g | [Cl-].[NH4+]
catalyst | zinc | 4.2 mmol, 0.27 g | [Zn] | Zn
catalyst | zinc | 150 mg | [Zn] | Zn
solvent | MeOH THF | 20 mL | CO.C1CCOC1
product | N-(4-Methoxybenzyl)-6-(4-amino-2-fluorophenoxy)pyrimidin-4-amine | 145 mg, 99% | COC1=CC=C(CNC2=NC=NC(=C2)OC2=C(C=C(C=C2)N)F)C=C1 | C18H17FN4O2
